US07291449B2
Sodium acetate (1.4 g) and 2 g of 2-methylthieno[2,3-d]oxazole were dissolved in 24 ml of an acetic acid solvent, and a solution comprised of 15.8 ml of bromine and 7.2 ml of acetic acid was dropwise added thereto with stirring at room temperature. After stirring at room temperature for 2.5 hours, the reaction solution was added to 150 ml of water, followedby further stirring at room temperature for 2 hours. The crystals precipitated were recovered by suction filtration, and dried under reduced pressure, thereby 1.7 g of 5-bromo-2-methylthieno[2,3-d]oxazole was obtained as pale yellow powder (yield: 54%).

reactant | Sodium acetate | 1.4 g | C(C)(=O)[O-].[Na+]
reactant | 2-methylthieno[2,3-d]oxazole | 2 g | CC=1OC2=C(N1)SC=C2 | C6H5NOS
reactant | bromine | 15.8 ml | BrBr | Br2
reactant | water | 150 ml | O | H2O
solvent | acetic acid | 24 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 7.2 ml | C(C)(=O)O | C2H4O2
product | 5-bromo-2-methylthieno[2,3-d]oxazole | 1.7 g | BrC1=CC2=C(N=C(O2)C)S1 | C6H4BrNOS
